2151-01-06 07:31:00 Physician Resident Progress Note
Chief Complaint: colonic obstruction, volvulus
   24 Hour Events:
   - Barium enema completed - ? ulcerating mass proximal to it
   - Surgery and ICU team met with family, discussed options. Family
   wished to get together to discuss options as they were unsure what
   patient's wishes would be regarding quality of life with ostomy. Family
   called overnight, did not wish to have surgery at this time.
   - Changed to pressure support, [**5-11**] with FiO2 40%, comfortable
   - CEA sent.
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2151-1-6**] 04:37 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-1-6**] 04:37 AM
   Famotidine (Pepcid) - [**2151-1-6**] 04:38 AM
   Other medications:
   Chlorhexidine mouth rinse
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-6**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 77 (73 - 87) bpm
   BP: 90/57(65) {90/54(63) - 130/78(91)} mmHg
   RR: 22 (20 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,126 mL
                                                                    965 mL
   PO:
             TF:
   IVF:
                                                                  5,126 mL
                                                                    965 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    955 mL
   Urine:
                                                                    950 mL
                                                                    955 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,176 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather, Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 345 (345 - 487) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.47/38/105/25/3
   Ve: 7.5 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: No(t) Soft, Distended, Tender: diffusely, Moderately
   distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   316 K/uL
   9.7 g/dL
   90 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.5 mEq/L
   18 mg/dL
   111 mEq/L
   140 mEq/L
   29.4 %
   11.2 K/uL
        [image002.jpg]
                            [**2151-1-5**]  03:38 AM
                            [**2151-1-5**]  05:10 AM
                            [**2151-1-5**]  04:50 PM
                            [**2151-1-5**]  05:19 PM
                            [**2151-1-6**]  03:48 AM
   WBC
   20.6
   11.2
   11.2
   Hct
   31.7
   29.1
   29.4
   Plt
   [**Telephone/Fax (3) 3649**]
   Cr
   0.8
   0.7
   0.6
   TCO2
   27
   28
   Glucose
   108
   111
   90
   Other labs: PT / PTT / INR:13.8/25.6/1.2, ALT / AST:25/65, Alk Phos / T
   Bili:75/0.2, Lactic Acid:1.4 mmol/L, Albumin:2.6 g/dL, LDH:285 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.5 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: ABG [**1-5**] @ 4pm: 7.47/28/105
   Imaging: Abd xray [**1-6**]: dilated loops of colon with barium up to
   splenic flexure
   CXR [**1-6**]: some expansion of lungs b/l
   Microbiology: urine [**1-5**] - ngtd
   blood 12/30: ngtd
   sputum [**1-5**]: ngtd
   Assessment and Plan
   77 y.o. man with schizophrenia, neuromuscular d/o, presents with
   sigmoid volvulus.
   # Sigmoid volvulus: Surgery and GI consulted.  Scoped in unit with some
   decompression of one volvulus.  Barium enema [**1-5**] - passed barium
   proximal to rectal tube, still partial distal volvulus, and ? new
   ulcerating mass in splenic flexure.
   -family discussion [**1-5**]: no surgery yet
   -consider extubation so patient can participate in surgery decision
   -serial abd xrays and exams
   - serial lactate
   - surgery and GI recs
   # Respiratory failure.  Unclear etiology.  Likely was due to
   atelectasis due to distended abdomen.
   - weaned Fi02 to 40% with PS 5/5.  Appears comfortable
   - f/u blood, sputum, and urine cultures
   - check RSBI; extubate this AM
   # UTI: positive UA, culture pending
   - cipro IV BID emperically
   # Hyperlipidemia: hold statin while NPO
   # Schizoaffective d/o: hold risperdal while sedated.  Restart when
   awake.
   # BPH: hold flomax while intubated
   # FEN: NPO, maintenance fluids
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-1-5**] 03:25 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2151-01-06 08:41:00 Physician Attending Progress Note
Chief Complaint: Abdominal distension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. Briefly, 77 year old man
   presented with sigmoid volvulus. S/P EGD with partial decompression as
   well as barium enema with persistent volvulus but declining lactate and
   no signs of SIRS/sepsis. Discussion ongoing with family as to surgery.
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2151-1-6**] 04:37 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-1-6**] 04:37 AM
   Famotidine (Pepcid) - [**2151-1-6**] 04:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-6**] 08:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 77 (73 - 87) bpm
   BP: 90/57(65) {90/54(63) - 113/71(80)} mmHg
   RR: 22 (20 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,126 mL
                                                                    989 mL
   PO:
             TF:
   IVF:
                                                                  5,126 mL
                                                                    989 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    955 mL
   Urine:
                                                                    950 mL
                                                                    955 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,176 mL
                                                                     34 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather, Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (345 - 487) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.47/38/105/25/3
   Ve: 9.3 L/min
   PaO2 / FiO2: 263
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, Tender:
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   316 K/uL
   90 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.5 mEq/L
   18 mg/dL
   111 mEq/L
   140 mEq/L
   29.4 %
   11.2 K/uL
        [image002.jpg]
                            [**2151-1-5**]  03:38 AM
                            [**2151-1-5**]  05:10 AM
                            [**2151-1-5**]  04:50 PM
                            [**2151-1-5**]  05:19 PM
                            [**2151-1-6**]  03:48 AM
   WBC
   20.6
   11.2
   11.2
   Hct
   31.7
   29.1
   29.4
   Plt
   [**Telephone/Fax (3) 3649**]
   Cr
   0.8
   0.7
   0.6
   TCO2
   27
   28
   Glucose
   108
   111
   90
   Other labs: PT / PTT / INR:13.8/25.6/1.2, ALT / AST:25/65, Alk Phos / T
   Bili:75/0.2, Lactic Acid:1.4 mmol/L, Albumin:2.6 g/dL, LDH:285 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.5 mg/dL, PO4:2.8 mg/dL
   Imaging: Stable colonic distension
   Assessment and Plan
   77 year old man with sigmoid volvulus, failing conservative therapy but
   DNR and family unwilling to make decision re: surgery without speaking
   to him. Intubated
   at OSH but normal mechanics today and follwoing commands of sedation.
   Will plan on extubating today and then speak with family to make a
   decision about surgery. Bariium
   enema reveals probable colonic mass, w/u pending discussions with
   family.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-1-5**] 03:25 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill